US07348337B2
Preparation of 1-[4-(1-Phenyl-1-(2-carboxyethyn-1-yl)-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione:
To a solution of LDA [prepared from iPr2NH (0.15 mL, 1.070 mmol) and n-BuLi (0.52 mL, 0.936 mmol)] in THF (3 mL) at −78° C. under Ar was added 1-[4-(1-phenyl-1-ethynyl-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione (0.160 g, 0.373 mmol). The solution was allowed to stir for 30 min and then a large excess of powdered dry ice was added directly into the flask. The mixture was allowed to warm to room temperature overnight and was then quenched with 10% aqueous HCl. The mixture was extracted with EtOAc (×3) and the combined organic layers were washed (H2O, brine), dried (Na2SO4) and concentrated. The residue was purified by preparative HPLC to afford the title compound as a colorless solid (0.026 g, 15%):

reactant | LDA | 1.070 mmol, 0.15 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-[4-(1-phenyl-1-ethynyl-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione | 0.373 mmol, 0.160 g | C1(=CC=CC=C1)C(C#C)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)OC)=O | C25H23N3O4
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-[4-(1-Phenyl-1-(2-carboxyethyn-1-yl)-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione | 0.026 g, 15% | C1(=CC=CC=C1)C(C#CC(=O)O)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)OC)=O | C26H23N3O6
